US08039463B2
HOBt (60 mg, 0.43 mmol), DIPEA (141 mg, 1.09 mmol), EDCI.HCl (84 mg, 0.43 mmol), 3-cyano-phenyl)-piperazin-1-yl-methanone hydrochloride (110 mg, 0.439 mmol) were added to a stirred solution of N-biphenyl-4-yl-2-fluoro-malonamic acid (100 mg, 0.36 mmol) in DMF (2.0 mL) and the resulting mixture was stirred at the ambient temperature overnight. The mixture was then diluted with water and the product was extracted with ethyl acetate. The organics were washed with brine and concentrated to afford 51 mg (29.65%) of N-Biphenyl-4-yl-3-[4-(3-cyano-benzoyl)-piperazin-1-yl]-2-fluoro-3-oxo-propionamide. LCMS: 471.18 (M+1)+, 95.1%, 1H NMR (DMSO-d6): δ 8.3 (s, 1H), 7.8-7.3 (m, 13H), 4.3-3.7 (m, 3H), 3.7-3.3 (m, 5H).

reactant | HOBt | 0.43 mmol, 60 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.09 mmol, 141 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI.HCl | 0.43 mmol, 84 mg | CCN=C=NCCCN(C)C.Cl
reactant | piperazin-1-yl-methanone hydrochloride | 0.439 mmol, 110 mg | Cl.N1(CCNCC1)C=O
reactant | N-biphenyl-4-yl-2-fluoro-malonamic acid | 0.36 mmol, 100 mg | C1(=CC=C(C=C1)NC(C(C(=O)O)F)=O)C1=CC=CC=C1 | C15H12FNO3
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-Biphenyl-4-yl-3-[4-(3-cyano-benzoyl)-piperazin-1-yl]-2-fluoro-3-oxo-propionamide | 51 mg, 29.65% | C1(=CC=C(C=C1)NC(C(C(=O)N1CCN(CC1)C(C1=CC(=CC=C1)C#N)=O)F)=O)C1=CC=CC=C1 | C27H23FN4O3
